US08314117B2
tert-butyl (5S,6S)-6-(2,3-difluorophenyl)-9-oxo-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate.
Dimethylsulfoxide (0.145 mL, 2.049 mmol) was added to a methylene chloride (10 mL) solution of oxalyl chloride (0.768 mL, 1.537 mmol) at −20° C. under nitrogen. The reaction was then cooled to −65° C. and tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate (0.2 g, 0.512 mmol) was added to the reaction all at once. The reaction was stirred for 2 h. Triethylamine (0.428 mL, 3.07 mmol) was added to the reaction mixture and the reaction was allowed to warm to room temperature. The reaction was diluted with methylene chloride and washed with water three times. The methylene chloride layer was separated, dried (sodium sulfate), filtered and concentrated. Flash chromatography using ethyl acetate in hexane from 0 to 45% to 65% gave the desired product (199 mg, 73%).

reactant | Dimethylsulfoxide | 2.049 mmol, 0.145 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.537 mmol, 0.768 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate | 0.512 mmol, 0.2 g | FC1=C(C=CC=C1F)[C@H]1[C@@H](C=2C(=NC=CC2)[C@@H](CC1)O)NC(OC(C)(C)C)=O | C21H24F2N2O3
reactant | Triethylamine | 3.07 mmol, 0.428 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (5S,6S)-6-(2,3-difluorophenyl)-9-oxo-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate | 199 mg, 73% | FC1=C(C=CC=C1F)[C@H]1[C@@H](C=2C(=NC=CC2)C(CC1)=O)NC(OC(C)(C)C)=O | C21H22F2N2O3
